data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_309183_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:6])[H:9])([O:4][O:5][H:7])[H:8]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([H:8])[C:3]([O:4][O:5][H:7])([H:9])[O:6]1,68.95220999997832
MR_151698_2,[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])(/[C:5]([C:4]([H:16])([H:17])[H:18])=[N:8]\[N:6]([H:11])[H:12])[H:10])(=[O:7])[H:9]>>[C:1]1(/[C:5]([C:4]([H:16])([H:17])[H:18])=[N:8]\[N:6]([H:11])[H:12])([H:9])[C:2]([C:3]([H:13])([H:14])[H:15])([H:10])[O:7]1,67.17826749999844
MR_180685_1,[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([O:4][O:5][H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([O:4][O:5][H:6])([H:10])[H:11])[H:9])([H:7])[H:8],49.67540999999471
MR_504716_0,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:5]([C:4]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])[N:7]=[O:8]>>[C:1]1([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:5]([C:4]([H:15])([H:16])[H:17])([N:7]=[O:8])[C:6]1([H:18])[H:19],64.19199500001184
MR_70224_1,[C:1]([O:7][N:4]([C:2]([H:13])([H:14])[H:15])[C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([O:7]/[N:4]=[C:6](\[N:5]([C:3]([H:16])([H:17])[H:18])[H:9])[O:8][C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],71.73579999997727
MR_393815_1,[C:1](/[C:3](=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:5]([H:9])[H:10])[O:7][C:6](=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]([C:4]([C:2]([H:15])([H:16])[H:17])([N:5]([H:9])[H:10])[C:6](=[O:8])[H:11])=[O:7])([H:12])([H:13])[H:14],44.23498500003348
MR_33842_1,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([C:6]([N:4]([C:5]([N:7]([H:12])[H:13])=[O:8])[H:10])=[O:9])[H:11]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:6](=[N:4]\[C:5]([N:7]([H:12])[H:13])=[O:8])[O:9][H:10])[H:11],46.17521499998588
MR_277686_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:6]([H:10])[H:11])[N:8]1[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])=[N:8]/[H:12])([N:6]([H:10])[H:11])[H:9],64.68081749995477
MR_315970_1,[C:1]([C:2](/[C:3]([N:5]([H:13])[H:14])=[N:9]\[H:16])=[N:8]\[H:15])([N:4]([H:11])[H:12])([C:6](=[C:7]([H:18])[H:19])[H:17])[H:10]>>[C:1](/[C:2]([C:6](=[C:7]([H:18])[H:19])[H:17])=[N:8]/[H:15])(/[C:3]([N:5]([H:13])[H:14])=[N:9]\[H:16])([N:4]([H:11])[H:12])[H:10],70.12500750001351
MR_514333_0,[C:1]([N:2]([C:3](=[C:5]([H:14])[H:15])[O:6][H:8])/[C:4](=[N:7]/[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:3](/[C:5](/[C:4](=[N:7]/[H:9])[H:10])([H:14])[H:15])[O:6][H:8])([H:11])([H:12])[H:13],50.391387499970506
MR_24124_1,[C:1]1([C:2]([C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])([N:6]([H:11])[H:12])[H:10])([H:9])[C:3]([H:13])([H:14])[O:7]1>>[C:1](=[C:2](\[N:6]([H:11])[H:12])[H:10])(\[C:3]([O:7][C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])([H:13])[H:14])[H:9],49.653447500014494
MR_243783_1,[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])=[O:7])([H:13])[H:14])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])([O:6][H:9])[O:7][H:8])([H:13])[H:14])(=[O:5])[H:10],43.557912499995126
MR_243477_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[C:5](/[O:6][H:7])[H:13])([N:3]([H:9])[H:10])[H:8]>>[N:1]1([H:8])[C:2]([N:4]([H:11])[H:12])([C:5]([O:6][H:7])([H:10])[H:13])[N:3]1[H:9],62.384167500010506
MR_248566_1,[C:1](/[C:3](=[N:6]\[C:2]([O:4][O:5][H:8])=[N:7]/[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:3]([O:4][O:5][H:8])([N:6][C:2][N:7][H:9])[H:10])([H:11])([H:12])[H:13],48.55406749997229
MR_110072_0,[C:1]([C:3]([N:2]([C:4](=[C:5]([H:13])[H:14])[H:9])[O:6][H:8])=[O:7])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[N:2]/[O:6][H:8])[O:7][C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],64.27105999999057
MR_31783_2,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:4]([C:5](=[C:7]([H:19])[H:20])[H:10])([O:8][C:2]([H:11])([H:12])[H:13])[C:6]1([H:17])[H:18]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([C:5](=[C:7]([H:19])[H:20])[H:10])=[C:6]([H:17])[H:18])([O:8][C:2]([H:11])([H:12])[H:13])[H:9],72.33317999996714
MR_21965_0,[C:1]([C:2]([O:6][N:5]([H:9])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:7][H:8]>>[C:1]([C:2]([O:7][H:8])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:6][N:5]([H:9])[H:10],71.93157999998235
MR_21661_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])(/[C:4](=[C:6](/[N:5]([H:10])[H:11])[H:14])[O:7][H:8])([H:12])[H:13]>>[C:1](=[C:4]([C@@:6]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])([N:5]([H:10])[H:11])[H:14])[O:7][H:8])([H:12])[H:13],67.87416500002493
MR_552878_2,[C:1]([C:3]([O:6]/[C:2](=[C:5](/[N:4]([H:10])[H:11])[H:12])[O:7][H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:2]1([O:7][H:9])[C:5]([N:4]([H:10])[H:11])([H:12])[O:6]1)=[O:8])([H:13])([H:14])[H:15],41.01214499996644
MR_161072_0,[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([C:3]([O:6][H:9])=[O:8])[O:7][H:10])([H:11])([H:12])[H:16]>>[C:1]([C:5]1([C:2]([H:13])([H:14])[H:15])[C:4]([O:7][H:10])=[C:3]([O:6][H:9])[O:8]1)([H:11])([H:12])[H:16],58.76035499999276
